Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transaminitis
 
Major Surgical or Invasive Procedure:
___ hepatic angiogram

 
History of Present Illness:
___ w hx HCV cirrhosis s/p DCD liver transplant ___ 
presenting to clinic for routine f/u appt and found to have 
elevated LFTs. Is being directly admitted to transplant surgery 
floor for workup.

On arrival to the floor, pt is in stable condition and feeling 
in
his usual state of health. Has mild pain surrounding his 
incision
site which is well-controlled with his home oxycodone. Has had
poor appetite for months and has a Dobhoff tube for feedings.
Last weekend pt vomited after eating what he feels was too large
of a meal due to return of his appetite, after which he
experienced N/V w/ emesisx1 and had to pull out the Dobhoff; 
went
to ED to have it replaced. Otherwise denies any fever/chills,
N/V, has had regular formed stools since d/c'ing HCV meds, no 
SOB
or CP.

 
Past Medical History:
- HCV mediated cirrhosis, Child's C 12, complicated in the past 
by ascites and coagulopathy  
- Genotype 3 hepatitis C, currently in the midst of a 24-week  
course of sofosbuvir and ribavirin.  
- Moderate malnutrition 
- Heart murmur
.
- s/p liver transplant ___
- Inguinal hernia repairs in the 1970s.  
- Tonsillectomy in the 1970s.  

 
Social History:
___
Family History:
No family history of liver disease or malignancy other than skin 
cancer in mother and father  

 
Physical Exam:
VS: T:98.0 P:72 BP:121/81 RR:18 O2:100% on RA
Gen: Very pleasant, thin-appearing man, AAOx3, in NAD
HEENT: NCAT, MMM, anicteric sclera
CV: RRR, normal S1/S2, no m/r/g
LUNGS: CTAB, no wheezes/crackles
ABD: Soft, nondistended, mild tenderness surrounding incision
site which is healing appropriately and covered with steri 
strips

 
Pertinent Results:
Labs on Admission: ___
WBC-7.0 RBC-3.54* Hgb-11.1* Hct-32.6* MCV-92 MCH-31.3 MCHC-34.0 
RDW-17.0* Plt ___
UreaN-36* Creat-1.6* Na-139 K-5.8* Cl-98 HCO3-28 AnGap-19  
Glucose-110*
ALT-88* AST-27 AlkPhos-177* TotBili-1.4
Albumin-4.1 Calcium-9.9 Phos-4.3 Mg-2.1
___ Cyclspr-285
.
Labs at Discharge: ___
WBC-6.2 RBC-3.01* Hgb-9.3* Hct-27.4* MCV-91 MCH-31.0 MCHC-34.0 
RDW-17.2* Plt ___
Glucose-122* UreaN-20 Creat-1.4* Na-137 K-4.9 Cl-99 HCO3-29 
AnGap-14
ALT-81* AST-50* AlkPhos-174* TotBili-1.2
Calcium-8.5 Phos-4.2 Mg-1.8
CSA: ****************
 
Brief Hospital Course:
___ w hx HCV cirrhosis s/p DCD liver transplant ___, was 
called into clinic after routine labs showed mild elevation in 
LFTs. Hepatic U/S showed concern for hepatic artery stenosis. On 
___, an angiogram was performed and demonstrated donor celiac 
artery anastomosis with recipient proper hepatic artery with 
donor accessory left hepatic artery extending from the left 
gastric artery. Mild irregularity of arterial anastomosis with a 
kinking of proximal right hepatic artery. Pressure gradient of 
17 mm Hg across anastomosis was noted. No significant pressure 
gradient across the right hepatic artery kinking was noted. He 
was stable post procedure. Groin site was stable and circulation 
intact. Diet and tube feeds were resumed. 

LFTs were still slightly elevated the next day. They are 
slightly but stably elevated. Follow up labs will be obtained in 
3 days. The decision was made to start ASA 325 mg daily. 

Creatinine was slightly elevated upon admission, and increased 
to 1.6 following two IV contrast loads for the CTA and 
arteriogram. The patient was aggressively hydrated, and by day 
of discharge the creatinine was back down to 1.4.

Patient was continued on immunosuppression, with Myfortic 
remaining at 720 BID, prednisone has been continued on the 
accelerated taper, and has been decreased to 5 mg daily with 
projected end date ___. There had been recent 
cyclosporine adjustments made, levels were checked while 
hospitalized and he will be discharged on 150 mg BID with lab 
check at ___ on ___.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 3 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Sertraline 100 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 
5. Amlodipine 5 mg PO DAILY 
6. Fluconazole 400 mg PO Q24H 
7. Glargine 14 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
8. Mycophenolate Sodium ___ 720 mg PO BID 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
10. PredniSONE 10 mg PO DAILY 
Tapered dose - DOWN 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. ValGANCIclovir 900 mg PO Q24H 
14. Docusate Sodium 100 mg PO BID 
15. Senna 8.6 mg PO BID:PRN constipation 
16. CycloSPORINE (Neoral) MODIFIED 175 mg PO Q12H 
17. Sodium Polystyrene Sulfonate 30 gm PO Frequency is Unknown 

 
Discharge Medications:
1. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Fluconazole 400 mg PO Q24H 
5. FoLIC Acid 3 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Mycophenolate Sodium ___ 720 mg PO BID 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q 8 hours Disp #*20 
Tablet Refills:*0
10. PredniSONE 5 mg PO DAILY 
Take this medication for one more week then can be discontinued 
Tapered dose - DOWN 
11. Vitamin D ___ UNIT PO DAILY 
12. Sodium Polystyrene Sulfonate 30 gm PO X1 PRN for high 
potassium per Transplant Coordinator 
13. Sertraline 100 mg PO DAILY 
14. Senna 8.6 mg PO BID:PRN constipation 
15. Glargine 14 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
16. ValGANCIclovir 900 mg PO Q24H 
17. Aspirin 325 mg PO DAILY 
18. CycloSPORINE (Neoral) MODIFIED 150 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Elevated LFTs
Hepatic artery irregularity
Malnutrition
Acute kidney injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office ___ if you 
develop any of the following: 
fever (temperature of 101 or greater), shaking chills, nausea, 
vomiting, increased abdominal pain, jaundice (yellowing of the 
whites of your eyes or skin), abdominal distension/bloating, 
groin puncture site appears red or has bleeding/drainage, 
constipation or any questions. 

You may shower with soap and water, rinse, pat dry. No tub baths 
or swimming until groin site healed

Do not apply powder, lotion or ointment to your incision. 
Do not lift anything heavier than 10 pounds or strain. 
No driving while taking narcotic pain medication. 

 
Followup Instructions:
___